US08222245B2
2,3,4,5-tetrahydro-1,4-benzoxazepin-9-ol hydrobromide
A suspension of 9-(methyloxy)-2,3,4,5-tetrahydro-1,4-benzoxazepine (Preparation 84) (43.4 g, 242 mmol) in 33% HBr in acetic acid (300 ml, 1823 mmol) was heated at 80° C. overnight. The mixture was allowed to cool to room temperature then treated with diethyl ether (300 ml) and stirred for 30 minutes. The resulting solid was collected by filtration, washed with diethyl ether (300 ml) and dried under vacuum at 40° C. to give the title compound as a pale brown powder (55.1 g)

reactant | 9-(methyloxy)-2,3,4,5-tetrahydro-1,4-benzoxazepine | 242 mmol, 43.4 g | COC1=CC=CC=2CNCCOC21 | C10H13NO2
reactant | acetic acid | 1823 mmol, 300 ml | C(C)(=O)O | C2H4O2
reactant | diethyl ether | 300 ml | C(C)OCC | C4H10O
reactant | HBr | Br | BrH
product | 2,3,4,5-tetrahydro-1,4-benzoxazepin-9-ol hydrobromide | 55.1 g | Br.O1CCNCC2=C1C(=CC=C2)O | InChI=1S/C9H11NO2.BrH/c11-8-3-1-2-7-6-10-4-5-12-9(7)8;/h1-3,10-11H,4-6H2;1H
